US07635715B2
Step D: Preparation of Ethyl 6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate
P2O5 (4.45 g, 31.3 mmol) was added to H2SO4 (4.17 mL, 78.3 mmol), the mixture was cooled to 0° C., and diethyl 2-(4-(3,4-difluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate (3.01 g, 7.83 mmol) was added at 0° C. The reaction mixture was stirred for 4 hours and then poured into ice, diluted with 200 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 75 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound which was used without further purification. MS (m/z)=339 (M+H)+.

reactant | P2O5 | 31.3 mmol, 4.45 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 78.3 mmol, 4.17 mL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(4-(3,4-difluorophenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 7.83 mmol, 3.01 g | FC=1C=C(C=CC1F)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C19H22F2O6
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Ethyl 6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | FC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1F)=O)C(=O)OCC)O | C17H16F2O5
